US07709479B1
Platinum dioxide (100 mg, 0.44 mmol) was added to a solution of N-benzoyl 3-(trifluoromethyl)-4-nitroaniline (913 mg, 2.94 mmol) in ethanol (50 ml) at ambient temperature and the reaction stirred for 1.5 hours under an atmosphere of hydrogen. Filtration of the reaction through a pad of celite and solvent evaporation in vacuo, yielded N-benzoyl 3-(trifluoromethyl)-4-aminoaniline (750 mg, 91% yield) as an off-white solid:

reactant | N-benzoyl 3-(trifluoromethyl)-4-nitroaniline | 2.94 mmol, 913 mg | C(C1=CC=CC=C1)(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C14H9F3N2O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Platinum dioxide | 0.44 mmol, 100 mg | [Pt](=O)=O
product | N-benzoyl 3-(trifluoromethyl)-4-aminoaniline | 750 mg, 91% yield | C(C1=CC=CC=C1)(=O)NC1=CC(=C(C=C1)N)C(F)(F)F | C14H11F3N2O
